US05543396
This compound was synthesized from 1-pyrroline trimer (Nomura, Y., Ogawa, K., Takeuchi, Y., Tomoda, S., One Step Synthesis and Structural Confirmation with 1-Pyrroline Trimer, Chem. Lett. 1977, 693-696) and diphenyl phosphite using the procedure previously described for the synthesis of the diethyl ester (Petrillo, E. W., Spitzmiller, E. R., Synthesis of 2-Phosphopyrrolidine and Its Substitution for Proline in an Inhibitor of Angiotensin-Converting Enzyme, Tet. Lett. 1979, 51, 4929). A mixture of 1-pyrroline trimer (17 mmol, 3.5 g) and diphenyl phosphite (50 mmol, 11.7 g) was heated at 85° C. for 1.5 h under argon to give crude diphenyl pyrrolidine-2-phosphonate which was dissolved in 100 ml of dry diethyl ether, filtered and saturated with dry gaseous HCl. The precipitated hydrochloride 1 was collected by filtration, washed with ether and recrystallized from acetone, to give the pure product as a white solid in 49% yield: mp 146°-148° C.; 1H-NMR (D2O) δ(ppm): 2.0-2.5 (m, 4H), 3.40 (m, 2H), 4.25 (m, 1H), 6.90-7.30 (m, 10H); MS (FAB) m/e 304 (M-Cl)30. Anal. (C16H19NO3PCl): C, H, N, Cl.

reactant | 1-pyrroline | N1=CCCC1 | C4H7N
reactant | diphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
reactant | 2-Phosphopyrrolidine | P(=O)(=O)C1NCCC1 | C4H8NO2P
reactant | Proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Angiotensin | C[C@@H](C(=O)O)NC(=O)[C@@H]1CCCN1C(=O)[C@H](CC2=CN=CN2)NC(=O)[C@H](C(C)C)NC(=O)[C@H](CC=3C=CC(=CC3)O)NC(=O)[C@H](C(C)C)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(=O)O)N | C43H65N13O12
reactant | diphenyl phosphite | 50 mmol, 11.7 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
product | diphenyl pyrrolidine-2-phosphonate | 49% yield | N1C(CCC1)P(OC1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C16H18NO3P
